US06794389B2
1-tert-Butoxycarbonylamino-6-hydroxyheptane
Under argon atmosphere, a solution of 650 mg of 6-tert-butoxycarbonylaminohexanal in 10 mL of anhydrous tetrahydrofuran was cooled to −78° C., and treated dropwise with 6.8 mL of methylmagnesium bromide (a 1.0 M solution in tetrahydrofuran). After 2 hours, the reaction solution was combined with water, extracted with ethyl acetate, and dried. After concentrating, the residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:1) to obtain 280 mg of the desirable compound.

reactant | 6-tert-butoxycarbonylaminohexanal | 650 mg | C(C)(C)(C)OC(=O)NCCCCCC=O | C11H21NO3
reactant | methylmagnesium bromide | 6.8 mL | C[Mg]Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-tert-Butoxycarbonylamino-6-hydroxyheptane | 280 mg | C(C)(C)(C)OC(=O)NCCCCCC(C)O | C12H25NO3
